US07105503B2
Preparation of 3-Amino-5-nitrobenzoic acid ethyl ester
3-Amino-5-nitrobenzoic acid (910 mg, 5.0 mmol) was dissolved in EtOH (25 mL). DCC (1.51 g, 7.3 mmol) was added, and the mixture was stirred under reflux overnight. The solid precipitation was filtered off and the filtrate was evaporated. The residue was triturated in the solvent mixture ether:hexane:ethyl acetate, 5:5:1. The title compound was isolated as a fine light yellow powder (0.9 g, 85.7%).

reactant | 3-Amino-5-nitrobenzoic acid | 5.0 mmol, 910 mg | NC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H6N2O4
reactant | DCC | 7.3 mmol, 1.51 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | EtOH | 25 mL | CCO | C2H6O
product | 3-Amino-5-nitrobenzoic acid ethyl ester | C(C)OC(C1=CC(=CC(=C1)[N+](=O)[O-])N)=O | C9H10N2O4
